US07612099B2
5-Benzyl-3-[(5-fluoro-3-methyl-1H-indol-2-yl)-thiophen-3-yl-methyl]-4-hydroxy-5H-furan-2-one
Using general procedure D, rac-5-benzyl-4-hydroxy-5H-furan-2-one (Lit. 13) was reacted with thiophene-3-carbaldehyde and 5-fluoro-3-methyl-1H-indole to give the title compound as a colorless solid. MS: 434.3 ([M+H]+).

reactant | rac-5-benzyl-4-hydroxy-5H-furan-2-one | C(C1=CC=CC=C1)C1C(=CC(O1)=O)O | C11H10O3
reactant | thiophene-3-carbaldehyde | S1C=C(C=C1)C=O | C5H4OS
reactant | 5-fluoro-3-methyl-1H-indole | FC=1C=C2C(=CNC2=CC1)C | C9H8FN
product | 5-Benzyl-3-[(5-fluoro-3-methyl-1H-indol-2-yl)-thiophen-3-yl-methyl]-4-hydroxy-5H-furan-2-one | C(C1=CC=CC=C1)C1C(=C(C(O1)=O)C(C1=CSC=C1)C=1NC2=CC=C(C=C2C1C)F)O | C25H20FNO3S
